US07625932B2
Preparation of 2-[(4-methylphenyl)sulfonyl]-3-[4-(3-methylthio(2-thienyl))phenyl]prop-2-enenitrile
To a stirring solution of 4-(3-methylthio-2-thienyl)benzaldehyde (1.0 mmol, prepared directly above) and p-toluenesulphonylacetonitrile (1.0 mmol) in toluene, add piperidine (0.05 mmol) and acetic acid (0.3 mmol). Heat the reaction mixture to reflux for 2 hours while using a Dean-Stark trap, remove the heat and concentrate the reaction in vacuo. The crude material can be carried on to the next step without further purification.

reactant | 4-(3-methylthio-2-thienyl)benzaldehyde | CSC1=C(SC=C1)C1=CC=C(C=O)C=C1 | C12H10OS2
reactant | p-toluenesulphonylacetonitrile | 1.0 mmol | C1(=CC=C(C=C1)S(=O)(=O)CC#N)C | C9H9NO2S
reactant | piperidine | 0.05 mmol | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.3 mmol | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-methylphenyl)sulfonyl]-3-[4-(3-methylthio(2-thienyl))phenyl]prop-2-enenitrile | CC1=CC=C(C=C1)S(=O)(=O)C(C#N)=CC1=CC=C(C=C1)C=1SC=CC1SC | C21H17NO2S3
